US07371872B2
(1S,2S,4S,5R,6R)-4-Acetyloxy-2-(tert-butoxycarbonyl)aminobicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester
To a solution of (1S,2S,4S,5R,6R)-2-(tert-butoxycarbonyl)amino-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester (1.50 g, 4.20 mmol, U.S. Pat. No. 5,958,960), pyridine (0.365 mL, 4.62 mmol) and DMAP (0.513 g, 4.20 mmol) in dichloromethane (40 mL) under nitrogen add acetic anhydride (0.514 mL, 5.0 mmol). Stir at room temperature for 16 hours, dilute with dichloromethane, and pour into 10% aqueous citric acid solution (50 mL). Wash the organic layer with water (50 mL) and brine (50 mL). Dry over MgSO4, filter and concentrate in vacuo, to produce the title compound as a white solid (1.295 g, 75%).

reactant | (1S,2S,4S,5R,6R)-2-(tert-butoxycarbonyl)amino-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | C(C)OC(=O)[C@]1([C@@H]2[C@H]([C@@H]2[C@H](C1)O)C(=O)OCC)NC(=O)OC(C)(C)C | C17H27NO7
reactant | pyridine | 4.62 mmol, 0.365 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 5.0 mmol, 0.514 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | citric acid | 50 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | DMAP | 4.20 mmol, 0.513 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (1S,2S,4S,5R,6R)-4-Acetyloxy-2-(tert-butoxycarbonyl)aminobicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 1.295 g, 75% | C(C)OC(=O)[C@]1([C@@H]2[C@H]([C@@H]2[C@H](C1)OC(C)=O)C(=O)OCC)NC(=O)OC(C)(C)C | C19H29NO8
